US05840751
2-Phenylethyl-p-toluenethiosulfonate
The title compound was prepared according to General Method 2 using phenethyl bromide (0.088 mmol), potassium thiotosylate(0.088 mol), and absolute ethanol (250 mL). A clear liquid was obtained which was used without purification. 1H NMR (CDCl3) δ 2.47 (s, 3 H), 2.92 (t, 2 H), 3.24 (t, 2 H), 7.1-7.4 (m, 7 H), 7.84 (d, 2 H).

reactant | phenethyl bromide | 0.088 mmol | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium thiotosylate | 0.088 mol | S(=S)(=O)([O-])C1=CC=C(C)C=C1.[K+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-Phenylethyl-p-toluenethiosulfonate | C1(=CC=CC=C1)CCOS(=O)(=S)C1=CC=C(C=C1)C | C15H16O2S2
